US08895547B2
N-(2,4-Dimethoxybenzyl)-C-[4-(morpholine-4-carbonyl)phenyl]methanesulfonamide
To a solution of morpholine (0.69 ml) in THF (10 ml) was added, at −78° C., N-butyllithium (1.6 M, 3.3 ml), and the solution was stirred for 10 min. A solution of 4-[(2,4-dimethoxybenzylsulfamoyl)methyl]benzoic acid methyl ester (1 g) was added and the solution was warmed up to room temperature and stirred for a further 30 minutes. After the addition of water (100 ml), the mixture was extracted with ethyl acetate (2×50 ml). The organic phases were dried over magnesium sulfate and concentrated. This was followed by purification by column chromatography (ethyl acetate/heptane). This gave the product (450 mg) with a molecular weight of 434.5 g/mol (C21H26N2O6S).

reactant | morpholine | 0.69 ml | N1CCOCC1 | C4H9NO
reactant | N-butyllithium | 1.6 M, 3.3 ml | [Li+].CCC[CH2-]
reactant | 4-[(2,4-dimethoxybenzylsulfamoyl)methyl]benzoic acid methyl ester | 1 g | COC(C1=CC=C(C=C1)CS(NCC1=C(C=C(C=C1)OC)OC)(=O)=O)=O | C18H21NO6S
reactant | water | 100 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-(2,4-Dimethoxybenzyl)-C-[4-(morpholine-4-carbonyl)phenyl]methanesulfonamide | 450 mg | COC1=C(CNS(=O)(=O)CC2=CC=C(C=C2)C(=O)N2CCOCC2)C=CC(=C1)OC | C21H26N2O6S
